US04230867
2-(2-Hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole
When using the general procedure of Example 5, a 23% by weight suspension of 2-nitro-2'-hydroxy-3',5'-di-tert-butylazobenzene in isopropanol/triethylamine (1/0.18) was hydrogenated at 45° C. at 1 atmosphere pressure for 3 hours in the presence of 3% of a 5% palladium on charcoal catalyst the above noted product was obtained in a yield of 77%.

reactant | 2-nitro-2'-hydroxy-3',5'-di-tert-butylazobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
solvent | isopropanol triethylamine | C(C)(C)O.C(C)N(CC)CC
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(2-Hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | yield of 77% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
